US04039575
Following a procedure similar to that described in Example 1 but using 2 g. sodium in 250 ml. dry acetone, 15.7 g. octanamidine hydrochloride, and 15 g. 4-chlorophenyl isothiocyanate in 70 ml. dry acetone there was obtained 1-(4-chlorophenyl)-3-(octanimidoyl)-2-thiourea, m.p. 98°-99° C. (from benzene-n-pentane); hydrochloride (18.7 g.), m.p. 155°-157° C. (from acetonitrile).

reactant | sodium | [Na] | Na
reactant | acetone | CC(=O)C | C3H6O
reactant | octanamidine hydrochloride | Cl.C(CCCCCCC)(=N)N
reactant | 4-chlorophenyl isothiocyanate | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
solvent | benzene n-pentane | C1=CC=CC=C1.CCCCC
product | 1-(4-chlorophenyl)-3-(octanimidoyl)-2-thiourea | ClC1=CC=C(C=C1)NC(=S)NC(CCCCCCC)=N | C15H22ClN3S
